US08071592B2
(e) Ethyl N-[2-({2-[4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]ethyl}amino)-6-(methyloxy)-3-pyridinyl]glycinate
A mixture of 1,1-dimethylethyl [1-(2-{[3-amino-6-(methyloxy)-2-pyridinyl]amino}ethyl)-4-piperidinyl]carbamate (2.8 g, 7.6 mmol), ethyl bromoacetate (0.85 ml, 1.3 g, 7.6 mmol) and potassium carbonate (2 g, 15.2 mmol) in acetonitrile (40 ml) and DMF (20 ml) was stirred under argon overnight. The mixture was filtered, washing with acetonitrile, and evaporated. The residue was dissolved in the minimum volume of DCM (20 ml) and washed with water (20 ml). The organic extract was added to a silica column which was then eluted with 0-100% ethyl acetate in hexane affording a brown oil (1.3 g, 38%).

reactant | 1,1-dimethylethyl [1-(2-{[3-amino-6-(methyloxy)-2-pyridinyl]amino}ethyl)-4-piperidinyl]carbamate | 7.6 mmol, 2.8 g | NC=1C(=NC(=CC1)OC)NCCN1CCC(CC1)NC(OC(C)(C)C)=O | C18H31N5O3
reactant | ethyl bromoacetate | 7.6 mmol, 0.85 ml, 1.3 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 15.2 mmol, 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Ethyl N-[2-({2-[4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]ethyl}amino)-6-(methyloxy)-3-pyridinyl]glycinate | CC(C)(C)OC(=O)NC1CCN(CC1)CCNC1=NC(=CC=C1NCC(=O)OCC)OC | C22H37N5O5
